US07994171B2
allyl 1-(pyrazin-2-yl)cyclopropylcarbamate.
To a solution of 1-(pyrazin-2-yl)cyclopropanecarboxylic acid (0.18 g, 1.09 mmol, 1 eq) in dry toluene (5 ml) was added TEA (0.18 ml, 1.3 mmol, 1.2 eq) followed by diphenylphosphoryl azide (0.25 ml, 1.18 mmol, 1.08 eq). The reaction was stirred for 1 h at r.t. Allyl alcohol (0.36 ml, 5.30 mmol, 4.9 eq) was added via syringe and the reaction was heated to 90° C. for 3 h. After cooling to room temperature, the reaction mixture was diluted with water (10 ml) and ethyl acetate (10 ml). The layers were separated and the water layer was extracted with ethyl acetate (2×10 ml). The combined organic layers were dried over Na2SO4 and concentrated to give a black residue that was purified by silica column chromatography using 20-30% ethyl acetate in hexane. Yield: 0.12 g (50%). 1H NMR (400 MHz, CD3OD): δ 1.31-1.38 (m, 2H), 1.60-1.63 (m, 2H), 4.60-4.61 (d, J=5.2 Hz, 2H), 5.23-5.26 (d, J=10.4 Hz, 1H), 5.35-5.39 (d, J=17.2 Hz, 1H,), 5.96-6.03 (m, 1H), 8.36-8.36 (d, J=2.4 Hz, 1H), 8.49-8.508 (q, 1H), 8.63 (s, 1H). LCMS: (ES+) m/z=220.2 (M+H)+

reactant | 1-(pyrazin-2-yl)cyclopropanecarboxylic acid | 1.09 mmol, 0.18 g, 1 eq | N1=C(C=NC=C1)C1(CC1)C(=O)O | C8H8N2O2
reactant | diphenylphosphoryl azide | 1.18 mmol, 0.25 ml, 1.08 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Allyl alcohol | 5.30 mmol, 0.36 ml, 4.9 eq | C(C=C)O | C3H6O
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
product | allyl 1-(pyrazin-2-yl)cyclopropylcarbamate | N1=C(C=NC=C1)C1(CC1)NC(OCC=C)=O | C11H13N3O2
